US09163021B2
2-(5-cyanopyridin-2-yl)-N-(2-{[1-(propan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)acetamide
To a 0.2M solution of (2-Aminopyridin-4-yl)-(1-(oxetan-3-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone in THF (Preparation 24, 500 μL, 100 umol) was added a 0.26M solution of the appropriate acetic acid in THF (500 μL, (130 μmol), DIPEA (130 μmol), EDCI (130 μmol) followed by HOBt (100 μmol) and the reaction was stirred under microwave irradiation for 30 minutes at 70° C. The reaction mixture was concentrated in vacuo and purified using preparative HPLC to afford the title compound.

reactant | (2-Aminopyridin-4-yl)-(1-(oxetan-3-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | NC1=NC=CC(=C1)C(=O)C1=CN(C2=C1C=NC=C2)C2COC2 | C16H14N4O2
reactant | DIPEA | 130 μmol, 500 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 130 μmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 100 μmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 100 umol, 500 μL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5-cyanopyridin-2-yl)-N-(2-{[1-(propan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)acetamide | C(#N)C=1C=CC(=NC1)CC(=O)NC1=CC(=NC=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C24H20N6O2
